US09278910B2
6-((N-(2-(tert-butoxy)-2-oxoethyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)methyl)pyridin-3-yl 4-(heptyloxy)benzoate (INT-21)
Prepared using General Procedure 6: To a stirred solution of 4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzoic acid INT-18 (40 mg, 0.11 mmol) in DMF (1 mL) was added HATU (45 mg, 0.11 mmol). After stirring for 1 h at room temperature, 6-(((2-(tert-butoxy)-2-oxoethyl)amino)methyl)pyridin-3-yl 4-(heptyloxy)benzoate INT-20 (61.7 mg, 0.13 mmol) was added followed by triethylamine (22.8 mg, 0.22 mmol). The reaction mixture was allowed to stir at room temperature for overnight. The final product was isolated by HPLC purification to give 6-((N-(2-(tert-butoxy)-2-oxoethyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)methyl)pyridin-3-yl 4-(heptyloxy)benzoate INT-21. LCMS-ESI (m/z) calculated for C43H48F3N3O8: 792; no m/z observed, tR=4.83 min (Method 1).

reactant | 4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzoic acid | COC1=CC(=C(C=C1)CC(=O)NC1=CC=C(C(=O)O)C=C1)C(F)(F)F | C17H14F3NO4
reactant | HATU | 0.11 mmol, 45 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 6-(((2-(tert-butoxy)-2-oxoethyl)amino)methyl)pyridin-3-yl 4-(heptyloxy)benzoate | C(CCCCCC)OC1=CC=C(C(=O)OC=2C=NC(=CC2)CNCC(=O)OC(C)(C)C)C=C1 | C26H36N2O5
reactant | triethylamine | 0.22 mmol, 22.8 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-((N-(2-(tert-butoxy)-2-oxoethyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)methyl)pyridin-3-yl 4-(heptyloxy)benzoate | C(CCCCCC)OC1=CC=C(C(=O)OC=2C=NC(=CC2)CN(C(C2=CC=C(C=C2)NC(CC2=C(C=C(C=C2)OC)C(F)(F)F)=O)=O)CC(=O)OC(C)(C)C)C=C1 | C43H48F3N3O8
